US04187379
A mixture of 22 g of 3-(2-chlorophenoxy)pyridine 1-oxide and 22 g of dimethylsulfate is heated at 100° C. for 4 hours. The 3-(2-chlorophenoxy)-1-methoxypyridinium methosulfate is cooled and dissolved in 100 ml of water. This solution is added dropwise with stirring to a 0°-5° C. solution of 50 g of sodium cyanide in 100 ml under a nitrogen atmosphere. The mixture is stirred 16 hours and extracted with 250 ml of chloroform. The extract is dried, concentrated and distilled to yield 3-(2-chlorophenoxy)-2-pyridine-carbonitrile, bp 125°-135° C. at 01. mM, mp 90°-92° C. after recrystallization from isopropanol.

reactant | 3-(2-chlorophenoxy)pyridine 1-oxide | 22 g | ClC1=C(OC=2C=[N+](C=CC2)[O-])C=CC=C1 | C11H8ClNO2
reactant | dimethylsulfate | 22 g | COS(=O)(=O)OC | C2H6O4S
reactant | 3-(2-chlorophenoxy)-1-methoxypyridinium | ClC1=C(OC=2C=[N+](C=CC2)OC)C=CC=C1
reactant | sodium cyanide | 50 g | [C-]#N.[Na+]
solvent | water | 100 ml | O | H2O
product | 3-(2-chlorophenoxy)-2-pyridine-carbonitrile | ClC1=C(OC=2C(=NC=CC2)C#N)C=CC=C1 | C12H7ClN2O
